US09108969B2
Step B: Preparation of tert-Butyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.717 g, 1.223 mmol) was dissolved in anhydrous THF (12.2 mL, 1.223 mmol). The solution was degassed with nitrogen for about 5 min using a syringe needle. Bis(tri-t-butylphosphine)Pd(0) (0.056 g, 0.110 mmol) and 2.0 M methylzinc chloride in THF (1.83 mL, 3.67 mmol) were added. The reaction vessel was purged with nitrogen, sealed, and heated at 70° C. After 2 h, the reaction mixture was cooled to 25° C. and slowly added saturated NaHCO3 (5 mL). After stirring for about 5 min, the reaction was diluted with EtOAc (20 mL), filtered through a celite pad, and the celite pad was washed with EtOAc (3×20 mL). The organic layer was washed with water (2×20 mL), brine (10 mL), and dried over MgSO4. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography to give the title compound as an oil (0.470 g). LCMS m/z=475.4 [M+H]+; 1H NMR (400 MHz, Acetonitrile-d3) δ ppm 1.36 (d, J=5.94 Hz, 6H), 1.41 (s, 9H), 2.19 (s, 3H), 2.27-2.37 (m, 1H), 2.46 (dd, J=15.66, 9.22 Hz, 1H), 2.72-2.86 (m, 2H), 3.60-3.69 (m, 1H), 3.93 (m, 1H), 4.00-4.10 (m, 1H), 4.75 (dt, J=12.13, 6.06 Hz, 1H), 5.03 (s, 2H), 6.77 (dd, J=8.72, 2.40 Hz, 1H), 7.00 (d, J=2.40 Hz, 1H), 7.11 (d, J=8.72 Hz, 1H), 7.13 (d, J=8.72 Hz, 1H), 7.63-7.68 (m, 1H), 7.69 (d, J=2.27 Hz, 1H).

reactant | tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.223 mmol, 0.717 g | C(#N)C=1C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=CC1OC(C)C | C28H31IN2O4
reactant | THF | 1.223 mmol, 12.2 mL | C1CCOC1 | C4H8O
reactant | methylzinc chloride | 2.0 M | [Cl-].C[Zn+]
reactant | THF | 3.67 mmol, 1.83 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.470 g | C(#N)C=1C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C)C=CC1OC(C)C | C29H34N2O4
